US07473701B2
2-Methylsulfonyl-N-(3-naphthalen-1-yl-1H-indazol-5-yl)benzenesulfonamide can be obtained as described in Example 59 from 0.5 g of tert-butyl 3-iodo-5-(2-methylsulfonylbenzenesulfonylamino)indazole-1-carboxylate, 298 mg of 1-naphthaleneboronic acid, 20 ml of dimethylformamide, 1.9 ml of a saturated aqueous sodium hydrogencarbonate solution and 24.5 mg of tetrakis(triphenylphosphine)palladium[0]. 240 mg of 2-methylsulfonyl-N-(3-naphthalen-1-yl-1H-indazol-5-yl)benzenesulfonamide are thus obtained in the form of a white solid melting at 186° C. (analysis C24H19N3O4S2 % calculated C, 60.36; H, 4.01; N, 8.80; O, 13.40; S, 13.43. % found C, 59.78; H, 4.05; N, 8.76; S, 13.34).

reactant | tert-butyl 3-iodo-5-(2-methylsulfonylbenzenesulfonylamino)indazole-1-carboxylate | 0.5 g | IC1=NN(C2=CC=C(C=C12)NS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C)C(=O)OC(C)(C)C | C19H20IN3O6S2
reactant | 1-naphthaleneboronic acid | 298 mg | C1(=CC=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | sodium hydrogencarbonate | 1.9 ml | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-methylsulfonyl-N-(3-naphthalen-1-yl-1H-indazol-5-yl)benzenesulfonamide | 240 mg | CS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)NC=1C=C2C(=NNC2=CC1)C1=CC=CC2=CC=CC=C12 | C24H19N3O4S2
